US05405851
N-(9-Amino-1,2-dihydro-1-oxobenzo[f]quinazolin-3-yl)pivalamide (0.065 g, 0.2 mmole) was reacted with aqueous sodium hydroxide in the same manner as in example 2. The product was precipitated from the basic reaction mixture with acetic acid, filtered and washed with water to give 3,9-diaminobenzo[f]quinazolin-1(2H)-one as a tan solid. (0.04 g, 84%) 1H NMR(DMSO-d6, 300 MHz) δ: 5.54(br s, 2H, NH2); 6.35(br s, 2H, NH2); 6.80(dd, J=8.5, 2.3 Hz, 1H, Ar); 6.87(d, J=8.6 Hz, 1H, Ar); 7.52(d, J=8.6 Hz, 1H, Ar); 7.73(d, J=8.6 Hz, 1H, Ar); 8.73(s, 1H, Ar); 10.91(br s, 1H, NH).

reactant | N-(9-Amino-1,2-dihydro-1-oxobenzo[f]quinazolin-3-yl)pivalamide | 0.2 mmole, 0.065 g | NC=1C=CC2=C(C=3C(NC(=NC3C=C2)NC(C(C)(C)C)=O)=O)C1 | C17H18N4O2
reactant | sodium hydroxide | [OH-].[Na+]
product | 3,9-diaminobenzo[f]quinazolin-1(2H)-one | NC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)N | C12H10N4O
